US04596816
Diethyl 2-(2-methyl-4-phenyl-5-oxazolylmethyl)malonate (8.0 g) was dissolved in a mixture of acetic acid (50 ml) and 6N hydrochloric acid (20 ml) and the solution was refluxed with stirring for 3 hours. The solvent was then distilled off and the residue was made alkaline with 2N sodium hydroxide and washed with ethyl ether. The alkaline solution was adjusted to pH 2 with concentrated hydrochloric acid to give 2-methyl-4-phenyloxazole-5-propionic acid as crystals, yield 4.85 g (overall yield from the 5-bromomethyl compound=57.5%). Recrystallization from ethanol gave colorless prisms, yield 3.40 g (overall yield from the bromomethyl compound=40.3%), m.p. 156°-157° C.

reactant | Diethyl 2-(2-methyl-4-phenyl-5-oxazolylmethyl)malonate | 8.0 g | CC=1OC(=C(N1)C1=CC=CC=C1)CC(C(=O)OCC)C(=O)OCC | C18H21NO5
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-methyl-4-phenyloxazole-5-propionic acid | CC=1OC(=C(N1)C1=CC=CC=C1)CCC(=O)O | C13H13NO3
